US07338959B2
3-{4-[(2-Benzylamino-1-methyl-1H-benzoimidazol-5-yl)-methyl-amino]-pyrimidin-2-ylamino}-benzenesulfonamide hydrochloride
The title compound was prepared following the procedure of Example 1 with N2-benzyl-N5-(2-chloropyrimidin-4-yl)-N5,1-dimethyl-1H-benzimidazole-2,5-diamine (95 mg, 0.25 mmol) and 3-amino-benzenesulfonamide (43 mg, 0.25 mmol) as a light pink solid (112 mg, 82%). 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ 10.03 (br s, 2H), 9.55 (br s, 1H), 8.48 (s, 1H), 7.89 (d, J=6.3 Hz, 1H), 7.74 (m, 1H), 7.59 (d, J=8.7 Hz, 1H), 7.51 (m, 2H), 7.22-7.41 (m, 8H), 5.76 (d, J=6.3 Hz, 1H), 4.76 (d, J=5.7 Hz, 2H), 3.763 (s, 3H), 3.48 (s, 3H). MS (ESI) m/z=515 [M+H]+.

reactant | N2-benzyl-N5-(2-chloropyrimidin-4-yl)-N5,1-dimethyl-1H-benzimidazole-2,5-diamine | 0.25 mmol, 95 mg | C(C1=CC=CC=C1)NC1=NC2=C(N1C)C=CC(=C2)N(C)C2=NC(=NC=C2)Cl | C20H19ClN6
reactant | 3-amino-benzenesulfonamide | 0.25 mmol, 43 mg | NC=1C=C(C=CC1)S(=O)(=O)N | C6H8N2O2S
product | 3-{4-[(2-Benzylamino-1-methyl-1H-benzoimidazol-5-yl)-methyl-amino]-pyrimidin-2-ylamino}-benzenesulfonamide hydrochloride | Cl.C(C1=CC=CC=C1)NC1=NC2=C(N1C)C=CC(=C2)N(C2=NC(=NC=C2)NC=2C=C(C=CC2)S(=O)(=O)N)C | InChI=1S/C26H26N8O2S.ClH/c1-33(24-13-14-28-25(32-24)30-19-9-6-10-21(15-19)37(27,35)36)20-11-12-23-22(16-20)31-26(34(23)2)29-17-18-7-4-3-5-8-18;/h3-16H,17H2,1-2H3,(H,29,31)(H2,27,35,36)(H,28,30,32);1H
